US04775674
N-Cyclohexyl-4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanamide
This compound, m.p. >320° C., was prepared analogous to Example 15 from 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid and cyclohexylamine.

reactant | 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)O)N1 | C14H13N3O4
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | N-Cyclohexyl-4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanamide | C1(CCCCC1)NC(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)=O | C20H24N4O3
